### PR TITLE
[Merged by Bors] - feat(Algebra/Polynomial/Roots): for a monic polynomial `p`, `p.roots.map f  = (p.map f).roots` if `p.roots.card = p.natDegree`

### PR DESCRIPTION
**Pull request by mbkybky**
A variant of the theorem [Polynomial.roots_map_of_injective_of_card_eq_natDegree](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Roots.html#Polynomial.roots_map_of_injective_of_card_eq_natDegree) that replaces the injectivity condition with `p.Monic`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 1]
```diff
@@ -751,6 +751,16 @@ theorem roots_map_of_injective_of_card_eq_natDegree [IsDomain A] [IsDomain B] {p
   apply Multiset.eq_of_le_of_card_le (map_roots_le_of_injective p hf)
   simpa only [Multiset.card_map, hroots] using (card_roots' _).trans (natDegree_map_le f p)
 
+theorem roots_map_of_map_ne_zero_of_card_eq_natDegree [IsDomain A] [IsDomain B] {p : A[X]}
+    {f : A →+* B} (h : p.map f ≠ 0) (hroots : p.roots.card = p.natDegree) :
+    p.roots.map f  = (p.map f).roots :=
```
Comment (jcommelin) [inline Mathlib/Algebra/Polynomial/Roots.lean:756]:
```suggestion
    p.roots.map f = (p.map f).roots :=
```

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 2]
```diff
@@ -751,6 +751,16 @@ theorem roots_map_of_injective_of_card_eq_natDegree [IsDomain A] [IsDomain B] {p
   apply Multiset.eq_of_le_of_card_le (map_roots_le_of_injective p hf)
   simpa only [Multiset.card_map, hroots] using (card_roots' _).trans (natDegree_map_le f p)
 
+theorem roots_map_of_map_ne_zero_of_card_eq_natDegree [IsDomain A] [IsDomain B] {p : A[X]}
+    {f : A →+* B} (h : p.map f ≠ 0) (hroots : p.roots.card = p.natDegree) :
```
Comment (jcommelin) [inline Mathlib/Algebra/Polynomial/Roots.lean:755]: I suggest keeping `f` explicit. Because probably `h` is not yet floating around in the context during applications, and should become a new goal.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
